US05047163
N-(4-Carboxybenzylidene)-3-nitrobenzenesulfonamide (SULF-6)
In a similar manner to Example 2, 2.02 g (10 mmol) of 3-nitrobenzenesulfonamide, 1.50 g (10 mmol) of 4-carboxybenzaldehyde and 20 mg of TsOH in 150 mL of toluene were heated for 5 hours to yield 3.23 g (97%) of SULF-6 as a white powder: IR (Nujol) 3200-2500 (br), 1685, 1554, 1379, 1352, 1165 cm-1 ; 1H NMR (DMSO-d6, TMS ext std)δ 9.24 (s, 1), 8.47 (s, 1), 7.9-6.9 (m, 7).

reactant | 3-nitrobenzenesulfonamide | 10 mmol, 2.02 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)N | C6H6N2O4S
reactant | 4-carboxybenzaldehyde | 10 mmol, 1.50 g | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | TsOH | 20 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-Carboxybenzylidene)-3-nitrobenzenesulfonamide | C(=O)(O)C1=CC=C(C=NS(=O)(=O)C2=CC(=CC=C2)[N+](=O)[O-])C=C1 | C14H10N2O6S
